US05409943
(a) N-(3-Benzyloxy-2-pyridyl)-N'-phenylthiourea
A mixture of 2-amino-3-benzyloxypyridine (5.0 g, 25 mmol), phenyl isothiocyanate (3.72 g, 25 mmol) and toluene (20 ml) was heated at reflux for 1.5 hours, then left at room temperature overnight. The solution was diluted with ether, and the product filtered off; yield 5.6 g (67%), m.p. 107°-109° C.

reactant | 2-amino-3-benzyloxypyridine | 25 mmol, 5.0 g | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | phenyl isothiocyanate | 25 mmol, 3.72 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | N-(3-Benzyloxy-2-pyridyl)-N'-phenylthiourea | C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(=S)NC1=CC=CC=C1 | C19H17N3OS
